US08748613B2
Ethyl 2-phenyl-2-(pyrrolidin-1-yl)acetate (0.31 g, 1.33 mmol) was dissolved in dioxane (11 ml) and 37% HCl (1.09 ml, 13.3 mmol) was added dropwise. The mixture was stirred at reflux overnight. Then 37% HCl (1.09 ml, 13.3 mmol) was added again and the reaction was refluxed for additional 24 hours. The solvent was evaporated, the residue was triturated with acetonitrile (10 ml) and the suspension was filtered on a buckner funnel. The solid was recovered to obtain 2-phenyl-2-(pyrrolidin-1-yl)acetic acid hydrochloride (0.25 g, 79% yield) as a white solid.

reactant | Ethyl 2-phenyl-2-(pyrrolidin-1-yl)acetate | 1.33 mmol, 0.31 g | C1(=CC=CC=C1)C(C(=O)OCC)N1CCCC1 | C14H19NO2
reactant | HCl | 13.3 mmol, 1.09 ml | Cl | ClH
reactant | HCl | 13.3 mmol, 1.09 ml | Cl | ClH
solvent | dioxane | 11 ml | O1CCOCC1 | C4H8O2
product | 2-phenyl-2-(pyrrolidin-1-yl)acetic acid hydrochloride | 0.25 g, 79% yield | Cl.C1(=CC=CC=C1)C(C(=O)O)N1CCCC1 | InChI=1S/C12H15NO2.ClH/c14-12(15)11(13-8-4-5-9-13)10-6-2-1-3-7-10;/h1-3,6-7,11H,4-5,8-9H2,(H,14,15);1H
